US07189741B2
C. Preparation of 3-piperidin-4-yl-1-(2-thiophen-3-yl-ethyl)-1H-indole
To a solution of 12.7 g (0.033 mol) of 4-[1-(2-thiophen-3-yl-ethyl)-1H-indol-3-yl]-piperidine-1-carboxylic acid ethyl ester in 10 mL of iso-propanol, a solution of 22 g of potassium hydroxide in 220 mL of iso-propanol was added. The crude mixture was refluxed for 16 hours. After cooling at room temperature, the solvent was removed at reduced pressure and the crude mixture was extracted between toluene and water. The organic layer was dried with sodium sulfate and after filtration, the solvent was removed under reduced pressure affording 9.3 g (90% of yield) of an oil which corresponds to the expected product.

reactant | 4-[1-(2-thiophen-3-yl-ethyl)-1H-indol-3-yl]-piperidine-1-carboxylic acid ethyl ester | 0.033 mol, 12.7 g | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=CC=CC=C12)CCC1=CSC=C1 | C22H26N2O2S
reactant | potassium hydroxide | 22 g | [OH-].[K+]
solvent | iso-propanol | 10 mL | C(C)(C)O | C3H8O
solvent | iso-propanol | 220 mL | C(C)(C)O | C3H8O
product | 3-piperidin-4-yl-1-(2-thiophen-3-yl-ethyl)-1H-indole | N1CCC(CC1)C1=CN(C2=CC=CC=C12)CCC1=CSC=C1 | C19H22N2S
